US05166188
5-(1,4-Dihydro-4-oxo-1-pyridyl)thiophene-2-carboxaldehyde
25.0 g of 4-hydroxypyridine was suspended in 440 ml of N,N-dimethylformamide. 11.04 g of sodium hydride (60% suspension in mineral oil) was added to the suspension in portions and the-suspension was stirred for 1 h. 32.8 ml of 5-bromothiophene-2-carboxaldehyde was added thereto and a reaction was conducted at 120° C. for 4 h.

reactant | 4-hydroxypyridine | 25.0 g | OC1=CC=NC=C1 | C5H5NO
reactant | sodium hydride | 11.04 g | [H-].[Na+]
reactant | 5-bromothiophene-2-carboxaldehyde | 32.8 ml | BrC1=CC=C(S1)C=O | C5H3BrOS
solvent | N,N-dimethylformamide | 440 ml | CN(C=O)C | C3H7NO
product | 5-(1,4-Dihydro-4-oxo-1-pyridyl)thiophene-2-carboxaldehyde | O=C1C=CN(C=C1)C1=CC=C(S1)C=O | C10H7NO2S
